US06331538B1
N-Benzyloxy-2-(2,4-difluoroanilino)-4,5-difluoro-benzamide
Carbonyldiimidazole (3.1 g, 19.1 mmol) was added to a suspension of 2-(2,4-difluoroanilino)-4,5-difluorobenzoic acid (Example H-4, 4.54 g, 15.9 mmol) in 120 mL of THF, and the mixture was stirred for 24 hours at 25° C. O-Benzylhydroxylamine hydrochloride (2.54 g, 15.9 mmol) and triethylamine (2.66 mL, 19.1 mmol) were added, and the mixture was heated to reflux for 4 hours. The reaction mixture was concentrated and washed with 1N HCl, saturated NaHCO3, brine, and dried over magnesium sulfate. The solution was concentrated to give 5.66 g of the title compound as an oil.

reactant | Carbonyldiimidazole | 19.1 mmol, 3.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(2,4-difluoroanilino)-4,5-difluorobenzoic acid | 15.9 mmol, 4.54 g | FC1=C(NC2=C(C(=O)O)C=C(C(=C2)F)F)C=CC(=C1)F | C13H7F4NO2
reactant | O-Benzylhydroxylamine hydrochloride | 15.9 mmol, 2.54 g | Cl.C(C1=CC=CC=C1)ON
reactant | triethylamine | 19.1 mmol, 2.66 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | N-Benzyloxy-2-(2,4-difluoroanilino)-4,5-difluoro-benzamide | 5.66 g | C(C1=CC=CC=C1)ONC(C1=C(C=C(C(=C1)F)F)NC1=C(C=C(C=C1)F)F)=O | C20H14F4N2O2
